US05350748
2-Propanethiol (1.1 mL, 12.4 mmol) is added to a suspension of 3-chloro-5-methoxybenzo[b]thiophene-2-carboxamide (3.00 g, 12.4 mmol) in 24 mL of DMF. Diazabicycloundecene (DBU) (1.8 mL, 12.4 mmol) is added and the mixture is warmed to 80° C. After 6 hours, additional amounts of 2-propanethiol (110 μL) and of DBU (180 μL) are added. Heating is continued for 1 hour. The reaction mixture is allowed to cool and then is diluted with ethyl acetate and washed with 1N NaOH, 1N HCl, water, and brine. The organic layer is dried over MgSO4. Filtration followed by concentration in vacuo and recrystallization from ethyl acetate:hexane gives 5-methoxy-3-[(1-methylethyl)thio]benzo[b]thiophene-2-carboxamide in 80% yield. An analytical sample is obtained by a second recrystallization from ethyl acetate:hexane; mp=143°-143.5° C.

reactant | 2-Propanethiol | 12.4 mmol, 1.1 mL | CC(C)S | C3H8S
reactant | 3-chloro-5-methoxybenzo[b]thiophene-2-carboxamide | 12.4 mmol, 3.00 g | ClC=1C2=C(SC1C(=O)N)C=CC(=C2)OC | C10H8ClNO2S
reactant | Diazabicycloundecene | 12.4 mmol, 1.8 mL | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | 2-propanethiol | 110 μL | CC(C)S | C3H8S
reactant | DBU | 180 μL | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-3-[(1-methylethyl)thio]benzo[b]thiophene-2-carboxamide | 80% yield | COC1=CC2=C(SC(=C2SC(C)C)C(=O)N)C=C1 | C13H15NO2S2
